US08981085B2
A mixture of tert-butyl 2-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate (660 mg, 1.49 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (1.49 g, 7.44 mmol), and DIEA (1.30 mL, 7.44 mmol) in n-BuOH (6 mL) was stirred at 120° C. for 36 hours. The reaction was then cooled to room temperature and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (0-50% CH3CN/water) to give the separated diastereomers of tert-butyl 2-(5-bromo-4-((R)-3-(tert-butoxycarbonylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate in the following yields: diastereomer #1 (70 mg, 7.5%) diastereomer #2 (80 mg, 8.6%).

reactant | tert-butyl 2-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate | 1.49 mmol, 660 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CN(CCO2)C(=O)OC(C)(C)C)F | C17H20BrFN4O4
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 7.44 mmol, 1.49 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 7.44 mmol, 1.30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 6 mL | CCCCO | C4H10O
product | tert-butyl 2-(5-bromo-4-((R)-3-(tert-butoxycarbonylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-ylcarbamoyl)morpholine-4-carboxylate | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CN(CCO2)C(=O)OC(C)(C)C)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C27H39BrN6O6
